US06833371B2
Benzotriazol-1-yloxy-tris(dimethylamino)-phosphonium hexafluorophosphate (BOP) (0.144 g, 0.327 mmol) was added to a suspension of 5-(4-bromo-phenyl)-7-trifluoromethyl-pyrazolo[1,5-a]pyrimidine-2-carboxylic acid (0.115 g, 0.298 mmol) and thiophene-2-methylamine (0.034 mL, 0.327 mmol) in THF (10 mL) containing triethylamine (0.124 mL, 0.893 mmol). The reaction mixture was stirred overnight at room temperature, diluted with ethyl ether (5 mL) and washed with a saturated aqueous solution of sodium bicarbonate (10 mL). The organic layer was collected, concentrated under reduced pressure and the crude product was purified by column chromatography to give 5-(4-bromo-phenyl)-7-trifluoromethyl-pyrazolo[1,5-a]pyrimidine-2-carboxylic acid (thiophen-2-ylmethyl)-amide (0.105 g, 73%).

reactant | Benzotriazol-1-yloxy-tris(dimethylamino)-phosphonium hexafluorophosphate | 0.327 mmol, 0.144 g | F[P-](F)(F)(F)(F)F.N1(N=NC2=C1C=CC=C2)O[P+](N(C)C)(N(C)C)N(C)C
reactant | 5-(4-bromo-phenyl)-7-trifluoromethyl-pyrazolo[1,5-a]pyrimidine-2-carboxylic acid | 0.298 mmol, 0.115 g | BrC1=CC=C(C=C1)C1=NC=2N(C(=C1)C(F)(F)F)N=C(C2)C(=O)O | C14H7BrF3N3O2
reactant | thiophene-2-methylamine | 0.327 mmol, 0.034 mL | S1C(=CC=C1)CN | C5H7NS
reactant | triethylamine | 0.893 mmol, 0.124 mL | C(C)N(CC)CC | C6H15N
solvent | THF | 10 mL | C1CCOC1 | C4H8O
solvent | ethyl ether | 5 mL | C(C)OCC | C4H10O
product | 5-(4-bromo-phenyl)-7-trifluoromethyl-pyrazolo[1,5-a]pyrimidine-2-carboxylic acid (thiophen-2-ylmethyl)-amide | 0.105 g, 73% | S1C(=CC=C1)CNC(=O)C1=NN2C(N=C(C=C2C(F)(F)F)C2=CC=C(C=C2)Br)=C1 | C19H12BrF3N4OS
